US08623898B2
N-[(6-Fluorobiphenyl-3-yl)methyl]-1-methyl-N-(tetrahydro-2H-pyran-4-yl)-1H-imidazole-4-carboxamide
A mixture of N-(3-bromo-4-fluorobenzyl)-1-methyl-N-(tetrahydro-2H-pyran-4-yl)-1H-imidazole-4-carboxamide (150 mg), phenylboronic acid (92 mg), tetrakis(triphenylphosphine)palladium (50 mg), potassium carbonate (110 mg), DMF (2 mL) and ethanol (1 mL) was subjected to reaction in a microwave reactor (150° C., 10 min). Water was added to the reaction mixture, followed by extraction with ethyl acetate and concentrating under reduced pressure. The resulting residue was purified by TLC (silica gel) (chloroform:methanol=10:1) to give the titled compound (50 mg).

reactant | N-(3-bromo-4-fluorobenzyl)-1-methyl-N-(tetrahydro-2H-pyran-4-yl)-1H-imidazole-4-carboxamide | 150 mg | BrC=1C=C(CN(C(=O)C=2N=CN(C2)C)C2CCOCC2)C=CC1F | C17H19BrFN3O2
reactant | phenylboronic acid | 92 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 110 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | N-[(6-Fluorobiphenyl-3-yl)methyl]-1-methyl-N-(tetrahydro-2H-pyran-4-yl)-1H-imidazole-4-carboxamide | 50 mg | FC1=CC=C(C=C1C1=CC=CC=C1)CN(C(=O)C=1N=CN(C1)C)C1CCOCC1 | C23H24FN3O2
